US04900478
19 g of chloromethyl chlorosulphate in 30 ml of methylene chloride are introduced dropwise at room temperature into a stirred mixture of 21.1 g of 3,4,5-trimethoxybenzoic acid, 33.6 g of sodium hydrogen carbonate and 3.4 g of tetrabutylammonium hydrogen sulphate in 600 ml of methylene chloride-water (1:1). In order to complete the reaction, the mixture is stirred at room temperature for a further 2 hours, the two phases are then separated, the aqueous phase is washed with 100 ml of methylene chloride and the combined organic phases are dried over sodium sulphate. The solvent is removed in a vacuum and the residue is chromatographed over 450 g of silica gel with methylene chloride. Fractions containing the product are evaporated and the residue is crystallized from methylene chloride-petroleum ether. 10.5 g of chloromethyl 3,4,5-trimethoxybenzoate are obtained as colourless needles with a melting point of 85°-86°. RF (silica gel/methylene chloride): 0.45.

reactant | chloromethyl chlorosulphate | 19 g | S(=O)(=O)(OCCl)Cl | CH2Cl2O3S
reactant | 3,4,5-trimethoxybenzoic acid | 21.1 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | sodium hydrogen carbonate | 33.6 g | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 3.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride water | 600 ml | C(Cl)Cl.O
product | chloromethyl 3,4,5-trimethoxybenzoate | 10.5 g | COC=1C=C(C(=O)OCCl)C=C(C1OC)OC | C11H13ClO5
